US08609644B2
6α-Ethynylandrostane-3,17-dione (II-bb)
The title compound II-bb was prepared in 46% yield from 3,3:17,17-bis(ethylendioxy)-6α-ethynylandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, cyclohexane/CH2Cl2/acetone 80/10/10). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 2.69-0.78 (m, 22H), 1.12 (s, 3H), 0.87 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-6α-ethynylandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)C#C | C25H36O4
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 6α-Ethynylandrostane-3,17-dione | 46% yield | C(#C)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C21H28O2
